US06949648B2
1-(2-Pyridinyl)-1,9-dihydro-4H-pyrazolo[3,4-b]quinolin-4-one
A solution of methanesulfonic acid (20 mL, 0.31 mol) in phosphorus pentoxide (5.00 g, 35.2 mmol) was heated at 100° C. The mixture was stirred at the same temperature, while powdery 2-[[1-(2-pyridinyl)-1H-pyrazol-5-yl]amino]benzoic acid (1.94 g, 6.92 mmol) was added in small portions. The reaction mixture was heated and stirred at the same temperature for 10 minutes. The mixture was allowed to cool to room temperature, and iced water was added thereto. The solution was made basic by the addition of an aqueous sodium hydroxide solution, and the organic matter was extracted with ethyl acetate. The extract was washed with saturated brine and water, and dried over anhydrous magnesium sulfate, and the solvent was evaporated under reduced pressure. The residue thus obtained was purified by silica gel column chromatography (chloroform:methanol=99:1) to give the title compound (1.35 g, 74% yield).

reactant | methanesulfonic acid | 0.31 mol, 20 mL | CS(=O)(=O)O | CH4O3S
reactant | phosphorus pentoxide | 35.2 mmol, 5.00 g | O=P12OP3(=O)OP(=O)(O1)OP(=O)(O2)O3 | O10P4
reactant | 2-[[1-(2-pyridinyl)-1H-pyrazol-5-yl]amino]benzoic acid | 6.92 mmol, 1.94 g | N1=C(C=CC=C1)N1N=CC=C1NC1=C(C(=O)O)C=CC=C1 | C15H12N4O2
reactant | sodium hydroxide | [OH-].[Na+]
solvent | water | O | H2O
product | 1-(2-Pyridinyl)-1,9-dihydro-4H-pyrazolo[3,4-b]quinolin-4-one | 1.35 g, 74% yield | N1=C(C=CC=C1)N1N=CC2=C1NC1=CC=CC=C1C2=O | C15H10N4O
